US07772285B2
3.32 g of 4-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}-methyl)benzoic acid was suspended in 3.3 mL of methylene chloride, to which 3.3 mL of 4M hydrogen chloride-ethanol was added, and this mixture was stirred for 7 hours at room temperature. The reaction mixture was concentrated under reduced pressure, and then the resultant residue was purified by silica gel column chromatography [eluent; chloroform:ethanol=10:1] to yield 1.76 g of 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-ethoxy-3-oxopropyl)phenoxy]methyl} benzoic acid as white solid.

reactant | 4-({2-(2-carboxyethyl)-4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]phenoxy}-methyl)benzoic acid | 3.32 g | C(=O)(O)CCC1=C(OCC2=CC=C(C(=O)O)C=C2)C=CC(=C1)C(C1=C(C=C(C=C1)OC1CCCC1)O)=O | C29H28O8
reactant | hydrogen chloride ethanol | 4M, 3.3 mL | Cl.C(C)O
solvent | methylene chloride | 3.3 mL | C(Cl)Cl | CH2Cl2
product | 4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-ethoxy-3-oxopropyl)phenoxy]methyl} benzoic acid | 1.76 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CC=C(C(=O)O)C=C3)C=C2)CCC(=O)OCC)C=C1)O | C31H32O8
